reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2](=[C:3]([H:11])[H:12])[C:5](=[O:6])[H:14])([H:7])([H:8])[H:9].[O:4]([H:10])[H:13]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],53.305944193414575
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:11])[H:13])([H:8])([H:9])[H:10].[C:3]([O:4][H:14])[H:12],82.38290311197859
[C:1]([C:2](=[C:3]([H:11])[H:12])[H:9])([H:6])([H:7])[H:8].[C:4](=[C:5]([H:16])[H:17])([H:13])[H:14].[H:10][H:15]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],41.68851545684069
[O:1]([C:2]([C:3]([C:4]#[C:5][H:11])([H:9])[H:10])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C:3](=[C:4]=[C:5]([H:9])[H:11])[H:10])([H:7])[H:8])[H:6],81.4641455354863
[C:1]([C@@:4]([C:2](=[O:3])[H:11])([O:5][H:12])[C:6]#[C:7][H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],45.61085285974801
[C:1](=[C:2]=[O:3])([H:8])[H:9].[C:4](=[C:5]([O:6][H:7])[H:12])([H:10])[H:11]>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],25.153983164130803
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])(/[N:4]=[C:6](/[O:7][C:5]([H:15])([H:16])[H:17])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10],57.1515705961006
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([N:7]([C:6](=[O:5])[H:12])[H:13])([H:10])[H:11])([H:8])[H:9],54.4825132458451
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1](=[N+:2]([C:3]([N:4]([H:11])[H:12])=[C:5]([O-:6])[N:7]([H:13])[H:14])[H:9])([H:8])[H:10],75.06700724202729
[C:1]([O:2][C:3](=[O:4])[N:5]([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2][N:5]=[C:3]=[O:4])([H:6])([H:7])[H:8].[H:9][H:10],121.57277575894501
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:12])=[C:4]1[C:5]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9].[O:6]([H:11])[H:16],77.8759205586598
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]1[C:4]([H:13])([H:14])[C@:5]1([O:6][C:3]([H:10])([H:11])[H:12])[H:15])([H:7])([H:8])[H:9],93.2310756800885
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:8])([H:9])[C@@:3]1([C:5](=[O:6])[H:12])[H:10].[O:4]([H:7])[H:11],76.3318955593852
[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C@@:7]12[H:19])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]([H:10])([H:17])[C:7]1([H:18])[H:19])[H:11])([H:8])[H:9],92.0120101893234
[C:1]([C:2]([C:3](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[C:4]([H:12])([H:13])([H:14])[H:15]>>[C:1]([C:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([O:5][H:15])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],77.60489134390292
[C:1]1([H:7])([H:9])[N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[C:5][N:6]1[H:8]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]#[N:6])([H:13])[H:14])([H:7])([H:8])[H:9],43.40232546648289
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:5]([C:3](=[O:4])[H:13])([C:6](=[O:7])[H:17])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][H:15],111.54656757383499
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O+:5]=[C-:6][O:7][H:13])[H:12])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],31.494652002623113
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:11])[H:13])([C:6](=[O:7])[H:19])[H:12])([H:8])([H:9])[H:10],84.9046858695736
[C:1]([C:2](=[O:3])/[C:4]([O:5][H:11])=[C:6](/[O:7][H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],55.65687574295339
[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:7]([C:5](=[C+:4][H:12])[O-:6])([H:14])[H:15])([H:11])[H:13])([H:9])[H:10])[H:8],76.1173517555995
[N:1]([C@@:2]([C:3]#[N:4])([C:5]1([H:11])[C:6]([H:12])([H:13])[C:7]1([H:14])[H:15])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]([C:3]1=[N:4][C:6]1([H:12])[H:13])([C:5](=[C:7]([H:14])[H:15])[H:11])[H:10])([H:8])[H:9],95.44920030950159
[C:1]([C:2]([O:3][C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4](=[O:5])=[N:6][H:12],53.2794605392379
